US05354913
To a solution of 2,3,5-trimethylphenol (13.6 g, 0.10 mol, (S)-3-hydroxy-3-phenylpropylacetate (1.94 g, 10 nunol) and triphenylphosphine (3.90 g, 15.0 nunol) in 1,2-dichloroethane (60 ml) was added dropwise 95% diethyl diazodicarboxylate (DEAD) (2.5 ml) at room temperature. The mixture was stirred for 6 hours at the same temperature range, then the solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography to obtain 0.94 g of (R)-3-(2-hydroxy-3,4,6-trimethylphenyl)-3-phenylpropyl acetate.

reactant | 2,3,5-trimethylphenol | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | (S)-3-hydroxy-3-phenylpropylacetate | 1.94 g | O[C@@H](CCCC(=O)[O-])C1=CC=CC=C1
reactant | triphenylphosphine | 3.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl diazodicarboxylate | 2.5 ml | [N+](=[N-])(C(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
product | (R)-3-(2-hydroxy-3,4,6-trimethylphenyl)-3-phenylpropyl acetate | 0.94 g | C(C)(=O)OCC[C@H](C1=CC=CC=C1)C1=C(C(=C(C=C1C)C)C)O | C20H24O3
